US06969725B2
e] (Z)-2-Ethoxy-3-[2-methyl-4-(5-methyl-2-o-tolyl-oxazol-4-ylmethoxy)-phenyl]-acrylic acid
To a solution of (Z)-2-ethoxy-3-[2-methyl-4-(5-methyl-2-o-tolyl-oxazol-4-ylmethoxy)-phenyl]-acrylic acid ethyl ester (6.8 g, 15.6 mmol) in THF/methanol 2/1 (102 ml) was added a 3 M aqueous NaOH solution (26 ml, 78 mmol). The reaction mixture was stirred for 3 h at ambient temperature, concentrated under reduced pressure, diluted with ice water and acidified with with 1 M aqueous HCl solution. Twofold extraction with ethyl acetate was followed by washing of the combined extracts with ice water/brine 1/1 (three times) and drying of the organic layer over sodium sulfate. The solvent was removed under reduced pressure and the crude product crystallized from dichloromethane/n-heptane to give the title compound (6.3 g, 15.5 mmol, 99%) as colorless crystals.

reactant | (Z)-2-ethoxy-3-[2-methyl-4-(5-methyl-2-o-tolyl-oxazol-4-ylmethoxy)-phenyl]-acrylic acid ethyl ester | 15.6 mmol, 6.8 g | C(C)OC(/C(=C/C1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=C(C=CC=C1)C)C)/OCC)=O | C26H29NO5
reactant | NaOH | 78 mmol, 3 M, 26 ml | [OH-].[Na+]
solvent | THF methanol | 102 ml | C1CCOC1.CO
product | (Z)-2-Ethoxy-3-[2-methyl-4-(5-methyl-2-o-tolyl-oxazol-4-ylmethoxy)-phenyl]-acrylic acid | 15.5 mmol, 6.3 g, 99% | C(C)O\C(\C(=O)O)=C/C1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=C(C=CC=C1)C)C | C24H25NO5
